US08686044B2
Preparation of N-(3-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenylcarbamoyl)-6-cyano-2-fluorophenyl)-6-chloronicotinamide (Compound No. 1-1968)
To a solution of 0.0500 g (0.0877 mol) of 3-amino-N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-cyano-2-fluorobenzamide in 0.200 ml of DMI was added 0.0308 g (0.175 mmol) of 6-chloronicotinoylchloride, followed by stirring at 130° C. for 6 hours. To the reaction liquid were added water and ethyl acetate, and the organic layer was washed with 1 M hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution, and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent solvent; hexane:ethyl acetate=2:1) to prepare 0.0100 g (yield 16%) of a target compound.

reactant | 3-amino-N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-cyano-2-fluorobenzamide | 0.0877 mol, 0.0500 g | NC=1C(=C(C(=O)NC2=C(C=C(C=C2C(F)(F)F)C(C(F)(F)F)(C(F)(F)F)F)Br)C=CC1C#N)F | C18H7BrF11N3O
reactant | 6-chloronicotinoylchloride | 0.175 mmol, 0.0308 g | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMI | 0.200 ml | CN1CCN(C1=O)C | C5H10N2O
product | N-(3-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenylcarbamoyl)-6-cyano-2-fluorophenyl)-6-chloronicotinamide | 0.0100 g, yield 16% | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(=O)C=1C(=C(C(=CC1)C#N)NC(C1=CN=C(C=C1)Cl)=O)F | C24H9BrClF11N4O2
